US04341718
3-Methoxycinnamoyl Chloride
Thionyl chloride (38 g.) was added dropwise to a mixture of 3-methoxycinnamic acid (50 g.) and benzene (500 ml.), and the resulting mixture was heated under reflux for 1.5 hours, then evaporated under reduced pressure on a rotary evaporator to give an oil. The oil solidified on standing at room temperature, giving 59 g. of the product. Analytical sample (m.p. 43°-45° ) was obtained by recrystallization from petroleum ether.

reactant | Thionyl chloride | 38 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-methoxycinnamic acid | 50 g | COC=1C=C(C=CC(=O)O)C=CC1 | C10H10O3
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 3-Methoxycinnamoyl Chloride | COC=1C=C(C=CC(=O)Cl)C=CC1 | C10H9ClO2
